US20010008893A1
1-(4-Benzyloxyphenoxy)-3-[4-(2,5-dimethoxyphenyl)-1-piperazinyl] propan-2-ol
2.56 g of 1-(4-benzyloxyphenoxy)-2,3-epoxypropane was dissolved in 100 ml of dioxane, and to this were added 2.95 g of 1-(2,5-dimethoxyphenyl)piperazine dihydrochloride and 3.5 ml of triethylamine and reaction and workup were carried out as in Example 1-A. The residue obtained was purified by column chromatography (silica gel, elution with ethyl acetate:hexane= 1:1) to give 1.62 g of brown oil.

reactant | 1-(4-benzyloxyphenoxy)-2,3-epoxypropane | 2.56 g | C(C1=CC=CC=C1)OC1=CC=C(OCC2CO2)C=C1 | C16H16O3
reactant | 1-(2,5-dimethoxyphenyl)piperazine dihydrochloride | 2.95 g | Cl.Cl.COC1=C(C=C(C=C1)OC)N1CCNCC1
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Benzyloxyphenoxy)-3-[4-(2,5-dimethoxyphenyl)-1-piperazinyl] propan-2-ol | 1.62 g | C(C1=CC=CC=C1)OC1=CC=C(OCC(CN2CCN(CC2)C2=C(C=CC(=C2)OC)OC)O)C=C1 | C28H34N2O5
